US06908913B2
4-Nitrobenzyl (1S,5R,6S)-2-[7-[5-(2-azidoethylthio)-1-carbamoylmethylpyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate iodide (140 mg) was prepared in the same manner as in step a) of Example 2, except that 114 mg of 4-nitrobenzyl (1S,5R,6S)-2-[7-[5-(2-azidoethylthio)pyridin-3-yl]carbonylimidazo[5,1-b]-thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate and 312 mg of 2-iodoacetamide were used as the starting compounds.

reactant | 4-nitrobenzyl (1S,5R,6S)-2-[7-[5-(2-azidoethylthio)pyridin-3-yl]carbonylimidazo[5,1-b]-thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 114 mg | N(=[N+]=[N-])CCSC=1C=C(C=NC1)C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C30H26N8O7S2
reactant | 2-iodoacetamide | 312 mg | ICC(=O)N | C2H4INO
product | 4-Nitrobenzyl (1S,5R,6S)-2-[7-[5-(2-azidoethylthio)-1-carbamoylmethylpyridinium-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate iodide | 140 mg | [I-].N(=[N+]=[N-])CCSC=1C=C(C=[N+](C1)CC(N)=O)C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C32H29N9O8S2.HI/c1-16-24(28(40-27(16)25(17(2)42)30(40)45)32(46)49-14-18-3-5-20(6-4-18)41(47)48)22-12-39-15-35-26(31(39)51-22)29(44)19-9-21(50-8-7-36-37-34)11-38(10-19)13-23(33)43;/h3-6,9-12,15-17,25,27,42H,7-8,13-14H2,1-2H3,(H-,33,43);1H/t16-,17+,25+,27+;/m0./s1
